US06235771B1
A suspension of 4-bromo-2-ethoxyphenol (8 g), 1-bromopropane (4 ml), sodium iodide (5.5 g) and potassium carbonate (10.2 g) in DMF (10 ml) was stirred under nitrogen atmosphere at 75° C. overnight. The solvent was evaporated, and to the residue was added water. The mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine and dried with anhydrous magnesium sulfate. The solvent was evaporated, and the residue was distilled under reduced pressure to give 1-bromo-3-ethoxy-4-propoxybenzene (8.5 g) as pale yellow oil.

reactant | 4-bromo-2-ethoxyphenol | 8 g | BrC1=CC(=C(C=C1)O)OCC | C8H9BrO2
reactant | 1-bromopropane | 4 ml | BrCCC | C3H7Br
reactant | sodium iodide | 5.5 g | [I-].[Na+]
reactant | potassium carbonate | 10.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-bromo-3-ethoxy-4-propoxybenzene | 8.5 g | BrC1=CC(=C(C=C1)OCCC)OCC | C11H15BrO2
